US07238716B2
A mixture of 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (0.65 g), ethyl 3-(2-ethoxy-5-hydroxyphenyl)propionate (0.46 g), anhydrous potassium carbonate (0.30 g) and N,N-dimethylformamide (10 mL) was stirred at 80° C. for 5 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and saturated brine, dried over, anhydrous magnesium sulfate and concentrated. The obtained residue was subjected to silica gel column chromatography to give an oil from a fraction eluted with ethyl acetate-hexane (1:4, v/v). To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added a 1N aqueous sodium hydroxide solution (5 mL) and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated, and dilute hydrochloric acid was added to acidify the residue. The precipitated solid was collected by filtration and dried with air to give crystals (0.89 g, 95%) of 3-[2-ethoxy-5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]propionic acid. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 136-137° C.

reactant | 4-(3-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 0.65 g | ClCC=1C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=CC1 | C18H16ClNO2
reactant | ethyl 3-(2-ethoxy-5-hydroxyphenyl)propionate | 0.46 g | C(C)OC1=C(C=C(C=C1)O)CCC(=O)OCC | C13H18O4
reactant | potassium carbonate | 0.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[2-ethoxy-5-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]phenyl]propionic acid | 0.89 g, 95% | C(C)OC1=C(C=C(C=C1)OCC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)CCC(=O)O | C29H29NO6
